US08791107B2
PREPARATION x48: 4-(5-bromo-2-chloropyrimidin-4-yl)-N—((S)-2,3-dihydro-1H-inden-1-yl)morpholine-3-carboxamide
To a 50 mL pear flask were added 4-(5-bromo-2-chloropyrimidin-4-yl)morpholine-3-carboxylic acid (PREPARATION x30, 300 mg, 0.930 mmol), 1-hydroxybenzotriazole (126 mg, 0.930 mmol), and (S)-2,3-dihydro-1H-inden-1-amine (0.119 mL, 0.930 mmol) in 1,4-dioxane (25 mL) to give a green solution. 1-Ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride (178 mg, 0.930 mmol) was added to the solution, which was allowed to reaction at room temperature for 6 hours. The reaction mixture was subsequently partitioned between aqueous saturated NaHCO3 and ethyl acetate. The aqueous layer was extracted with ethyl acetate and the combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound, which was used without further purification. ESI-MS m/z [M+H]+ calc'd for C18H18BrClN4O2, 437.03. found 437.2.

reactant | 4-(5-bromo-2-chloropyrimidin-4-yl)morpholine-3-carboxylic acid | 0.930 mmol, 300 mg | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)O | C9H9BrClN3O3
reactant | 1-hydroxybenzotriazole | 0.930 mmol, 126 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (S)-2,3-dihydro-1H-inden-1-amine | 0.930 mmol, 0.119 mL | [C@@H]1(CCC2=CC=CC=C12)N | C9H11N
reactant | 1-Ethyl-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.930 mmol, 178 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 4-(5-bromo-2-chloropyrimidin-4-yl)-N—((S)-2,3-dihydro-1H-inden-1-yl)morpholine-3-carboxamide | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)N[C@H]1CCC2=CC=CC=C12 | C18H18BrClN4O2
